US05780482
A mixture of ethyl 4-chloro-6-methoxy-1,5-naphthyridine-3-carboxylate (1.68 g), 4-methoxyaniline (0.78 g), dry THF (50 ml) and anhydrous potassium carbonate (1.74 g) was stirred at ambient temperature for 7 hours. Further amounts of 4-methoxyaniline (0.4 g) and anhydrous potassium carbonate (0.9 g) were added and the mixture stirred at ambient temperature for 32 hours. The mixture was evaporated to dryness and the residue diluted with water (100 ml). The mixture was extracted into dichloromethane to give an oil which solidified. The solid was purified by column chromatography on silica using ethyl acetate as the mobile phase to give ethyl 6-methoxy-4-(4-methoxyanilino)-1,5-naphthyridine-3-carboxylate, m.p. 115°-117° C.

reactant | ethyl 4-chloro-6-methoxy-1,5-naphthyridine-3-carboxylate | 1.68 g | ClC1=C(C=NC2=CC=C(N=C12)OC)C(=O)OCC | C12H11ClN2O3
reactant | 4-methoxyaniline | 0.78 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | potassium carbonate | 1.74 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxyaniline | 0.4 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | potassium carbonate | 0.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | ethyl 6-methoxy-4-(4-methoxyanilino)-1,5-naphthyridine-3-carboxylate | COC=1N=C2C(=C(C=NC2=CC1)C(=O)OCC)NC1=CC=C(C=C1)OC | C19H19N3O4
